US06090839
EXAMPLE 11 2-(2-(3-phenyl-7-propylbenz[4,5]isoxazol-6-yloxy)ethyl)-4,5,6,7-tetrahydronaphtho[2,1-b]furan-7-carboxylic acid
Using the procedure from Example 1, steps F and G, the title compound was prepared from methyl 2-(2-hydroxyethyl)-4,5,6,7-tetrahydronaphtho[2,1-b]furan-7-carboxylate and 3-phenyl-7-propyl-6-hydroxybenz[4,5]isoxazole as a colorless oil.

reactant | methyl 2-(2-hydroxyethyl)-4,5,6,7-tetrahydronaphtho[2,1-b]furan-7-carboxylate | OCCC1=CC2=C(O1)CCC=1CC(C=CC12)C(=O)OC | C16H18O4
reactant | 3-phenyl-7-propyl-6-hydroxybenz[4,5]isoxazole | C1(=CC=CC=C1)C1=NOC2=C1C=CC(=C2CCC)O | C16H15NO2
product | 2-(2-(3-phenyl-7-propylbenz[4,5]isoxazol-6-yloxy)ethyl)-4,5,6,7-tetrahydronaphtho[2,1-b]furan-7-carboxylic acid | C1(=CC=CC=C1)C1=NOC2=C1C=CC(=C2CCC)OCCC2=CC1=C(O2)CCC=2CC(C=CC21)C(=O)O | C31H29NO5
